US08168678B2
Step 4: (2′-Ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 5, using the following starting materials: (2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and ethylamine (2M in THF).

reactant | (2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=CC1)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H13F3O3
reactant | ethylamine | 2M | C(C)N | C2H7N
product | (2′-Ethylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C=CC1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C19H20F3NO2
